US07700306B2
Synthesis of 2-cyano-3-(4-hydroxyphenyl) acrylic acid (6-hydroxy-6-oxo-hexyl)amide
7.5 g (38 mmol 6-(cyanacetamido) hexanoic acid was dissolved in 50 ml pyridine. 4.6 g (38 mmol) 4-hydroxybenzaldehyde and 0.7 ml (7 mmol) piperidine were added to the solution and the reaction mixture was stirred for 2 hours at 50° C. A further aliquot of 0.4 ml piperidine was then added to the reaction and the solution was stirred at RT for 60 hours. The residue after evaporation of the pyridine was acidified with HCl (2N) and was extracted with ethyl acetate. The organic layer was poured into 300 ml of a saturated solution of sodium hydrogen carbonate. The aqueous layer was then carefully acidified with HCl (2N). The precipitated residue was filtered and washed with water. The dried product was crystallized from dioxane.

reactant | 6-(cyanacetamido) hexanoic acid | 38 mmol | C(#N)CC(=O)NCCCCCC(=O)O | C9H14N2O3
reactant | 4-hydroxybenzaldehyde | 38 mmol, 4.6 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | piperidine | 7 mmol, 0.7 ml | N1CCCCC1 | C5H11N
reactant | piperidine | 0.4 ml | N1CCCCC1 | C5H11N
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 2-cyano-3-(4-hydroxyphenyl) acrylic acid (6-hydroxy-6-oxo-hexyl)amide | OC(CCCCCNC(C(=CC1=CC=C(C=C1)O)C#N)=O)=O | C16H18N2O4
